US07109219B2
5-(6-(3-(3-Diethylaminopropylamino)ureido)pyrimidin-4-yloxy)-1H-indole-1-carboxylic acid methylamide
Phenyl(6-(1-methylcarbamoyl-1H-indol-5-yloxy)pyrimidin-4-yl)carbamate (161 mg, 0.400 mmol) was dissolved in N,N-dimethylformamide (1.0 ml), and 3-(diethylamino)propylamine (130 mg, 1.00 mmol) was added while the reaction mixture was stirred at room temperature. After the reaction mixture was stirred overnight, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by NH silica gel column chromatography (eluent; ethyl acetate:methanol=50:1). The crystals were precipitated from ethyl acetate-hexane, filtered off, and dried under aeration to yield the title compound (123 mg, 0.280 mmol, 70%) as white crystals.

reactant | Phenyl(6-(1-methylcarbamoyl-1H-indol-5-yloxy)pyrimidin-4-yl)carbamate | 0.400 mmol, 161 mg | C1(=CC=CC=C1)OC(NC1=NC=NC(=C1)OC=1C=C2C=CN(C2=CC1)C(NC)=O)=O | C21H17N5O4
reactant | 3-(diethylamino)propylamine | 1.00 mmol, 130 mg | C(C)N(CCCN)CC | C7H18N2
reactant | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | 5-(6-(3-(3-Diethylaminopropylamino)ureido)pyrimidin-4-yloxy)-1H-indole-1-carboxylic acid methylamide | 0.280 mmol, 123 mg, 70% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)NC(=O)NNCCCN(CC)CC | C22H30N8O3
